US07816522B2
(36b) 2-(3,4-dimethoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]thioacetamide
To a solution of 1.25 g of (3,4-dimethoxyphenyl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]acetonitrile in 120 ml of an ethanol:THF=2:1 mixed solvent there was added 10 ml of a 20% aqueous solution of ammonium sulfide, and the mixture was stirred at room temperature for 60 hours. Next, 500 ml of ethyl acetate and 400 ml of water were added to the reaction solution, and the organic layer was washed twice with 300 ml of water and once with 300 ml of saturated brine, and was then dried over anhydrous magnesium sulfate. The desiccating agent was filtered off, and after concentrating the filtrate under reduced pressure, 10 ml of t-butyl methyl ether was added to the residue prior to filtration. The solid was washed with 10 ml of t-butyl methyl ether to give the title compound (1.34 g) as a white solid.

reactant | (3,4-dimethoxyphenyl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]acetonitrile | 1.25 g | COC=1C=C(C=CC1OC)C(C#N)NC1=CC=C(C=C1)C1=NOC(=N1)C | C19H18N4O3
reactant | THF | C1CCOC1 | C4H8O
reactant | ammonium sulfide | [NH4+]=S
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 120 ml | C(C)O | C2H6O
solvent | water | 400 ml | O | H2O
product | 2-(3,4-dimethoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]thioacetamide | 1.34 g | COC=1C=C(C=CC1OC)C(C(=S)N)NC1=CC=C(C=C1)C1=NOC(=N1)C | C19H20N4O3S
